US07858784B2
Synthesis of 4-Methoxy-N-methylaniline (FIG. 11, Table 7, Entry 1)
Following general procedure A, a mixture of 4-chloroanisole (123 μL, 1.0 mmol), 2M methylamine (1 mL, 2.0 mmol), NaOt-Bu (120 mg, 1.2 mmol), BrettPhos precatalyst 10 (8 mg, 0.01 mmol), and t-BuOH (1 mL) was stirred at room temperature for 2 h. The crude product was purified via column chromatography (20:1 CH2Cl2/MeOH) to provide the title compound as a yellow liquid that turned into a tan solid upon standing (126 mg, 92%). 1H NMR (400 MHz, CDCl3) δ: 6.80 (dt, J=9.0, 2.3 Hz, 2H), 6.59 (dt, J=9.0, 2.3 Hz, 2H), 3.76 (s, 3H), 3.46 (bs, 1H), 2.81 (s, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 152.2, 143.9, 115.1, 113.8, 56.1, 31.8 ppm. Ali, H. I.; Tomita, K.; Akaho, E.; Kambara, H.; Miura, S.; Hayakawa, H.; Ashida, N.; Kawashima, Y.; Yamagishi, T.; Ikeya, H.; Yoneda, F.; Nagamatsu, T. Bioorg. Med. Chem. 2007, 15, 242.

reactant | 4-chloroanisole | 1.0 mmol, 123 μL | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | methylamine | 2.0 mmol, 2M, 1 mL | CN | CH5N
reactant | NaOt-Bu | 1.2 mmol, 120 mg | CC(C)(C)[O-].[Na+]
catalyst | BrettPhos precatalyst | 0.01 mmol, 8 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | t-BuOH | 1 mL | CC(C)(C)O | C4H10O
product | 4-Methoxy-N-methylaniline | COC1=CC=C(NC)C=C1 | C8H11NO
